### PR TITLE
[Merged by Bors] - feat(RingTheory/KrullDimension): Krull Dimension of quotient regular sequence

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
We show that if M is a finite module over a Noetherian local ring R, [r₁, …, rₙ] is an M-sequence, then dim M⧸(r₁, …, rₙ)M + n = dim M.

Co-authored-by: Yongle Hu @mbkybky <mbkybky@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Thmoas-Guan** [comment]
This PR is originally from #25213

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 1]
```diff
@@ -321,6 +321,9 @@ theorem nontrivial_iff : Nontrivial (Submodule R M) ↔ Nontrivial M :=
 
 variable {R}
 
+theorem _root_.Module.subsingleton_of_top_le_bot (h : (⊤ : Submodule R M) ≤ ⊥) : Subsingleton M :=
+  subsingleton_of_forall_eq 0 fun _ ↦ h Submodule.mem_top
```
Comment (chrisflav) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean]: I am not sure we want this, can't you just combine [Submodule.subsingleton_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Lattice.html#Submodule.subsingleton_iff) with the general [subsingleton_of_top_le_bot](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/BoundedOrder/Basic.html#subsingleton_of_top_le_bot)?

File: Mathlib/LinearAlgebra/Quotient/Basic.lean [hunk 2]
```diff
@@ -70,6 +70,11 @@ theorem nontrivial_of_lt_top (h : p < ⊤) : Nontrivial (M ⧸ p) := by
   refine ⟨⟨mk x, 0, ?_⟩⟩
   simpa using notMem_s
 
+instance [Subsingleton M] : Subsingleton (M ⧸ p) := by
+  apply subsingleton_of_forall_eq 0
+  rintro ⟨x⟩
+  exact congrArg Submodule.Quotient.mk (Subsingleton.eq_zero x)
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/Quotient/Basic.lean]:
```suggestion
  Submodule.subsingleton_quotient_iff_eq_top.mpr (Subsingleton.elim _ _)
```

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean [hunk 3]
```diff
@@ -76,7 +76,15 @@ theorem Ideal.exists_mul_mem_of_mem_minimalPrimes
   rw [← mul_assoc, ← pow_succ', tsub_add_cancel_of_le (Nat.one_le_iff_ne_zero.mpr this)]
   exact Nat.find_spec H
 
-/-- minimal primes are contained in zero divisors. -/
+theorem Module.notMem_minimalPrimes_of_isSMulRegular {M : Type*} [AddCommMonoid M] [Module R M]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean]:
```suggestion
theorem IsSMulRegular.notMem_of_mem_minimalPrimes {M : Type*} [AddCommMonoid M] [Module R M]
```

File: Mathlib/RingTheory/Support.lean [hunk 4]
```diff
@@ -127,6 +127,9 @@ lemma Module.nonempty_support_iff :
   rw [Set.nonempty_iff_ne_empty, ne_eq,
     Module.support_eq_empty_iff, ← not_subsingleton_iff_nontrivial]
 
+instance [h : Nontrivial M] : Nonempty (Module.support R M) :=
+  (Module.nonempty_support_iff.mpr h).to_subtype
```
Comment (chrisflav) [inline Mathlib/RingTheory/Support.lean]:
```suggestion
instance [Nontrivial M] : Nonempty (Module.support R M) :=
  (Module.nonempty_support_iff.mpr ‹_›).to_subtype
```

File: Mathlib/RingTheory/Support.lean [hunk 5]
```diff
@@ -255,4 +258,11 @@ theorem Module.support_quotient (I : Ideal R) :
       exact Ideal.map_mono hp₂
     exact e.nontrivial
 
+open Pointwise in
+theorem Module.support_quotSMulTop (x : R) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Support.lean:263]:
```suggestion
open Pointwise in
@[simp]
theorem Module.support_quotSMulTop (x : R) :
```

File: Mathlib/RingTheory/Spectrum/Prime/LTSeries.lean [hunk 6]
```diff
@@ -1,7 +1,7 @@
 /-
-Copyright (c) 2025 Yonele Hu. All rights reserved.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/LTSeries.lean]: The changes in this file seem unrelated. Could you please remove these change from this PR and make a separate one? You can ping me for a quick review.

File: Mathlib/RingTheory/Nakayama.lean [hunk 7]
```diff
@@ -179,3 +179,25 @@ lemma exists_sub_one_mem_and_smul_le_of_fg_of_le_sup {I : Ideal R}
...
+open Pointwise
+
+variable [hm : Module.Finite R M]
+
+theorem subsingleton_of_subsingleton_quotSMulTop {x : R} (hx : x ∈ (annihilator R M).jacobson)
+    [h : Subsingleton (M ⧸ x • (⊤ : Submodule R M))] : Subsingleton M := by
+  rw [← Submodule.annihilator_top] at hx
+  exact subsingleton_of_top_le_bot <| le_of_eq <|
+    Submodule.eq_bot_of_eq_pointwise_smul_of_mem_jacobson_annihilator hm.1
+      (Submodule.subsingleton_quotient_iff_eq_top.mp h).symm hx
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nakayama.lean]: Have you tried what happens if you add `Mathlib.RingTheory.QuotSMulTop` as an import (to use the `QuotSMulTop` synonym here)?

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+
+/-!
+
+# Krull Dimension of quotient regular sequence
+
+## Main results
+
+- `Module.supportDim_regular_sequence_add_length_eq_supportDim`: If $M$ is a finite module over a
+  Noetherian local ring $R$, $r_1, \dots, r_n$ is an $M$-sequence, then
+  $\dim M/(r_1, \dots, r_n)M + n = \dim M$.
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: Do you have the stacks project reference at hand?

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+  · match rs with
+    | [] => simp at len
+    | x :: rs' =>
+      simp only [Nat.cast_add, Nat.cast_one]
+      simp only [List.length_cons, Nat.add_right_cancel_iff] at len
+      have mem : x ∈ maximalIdeal R := by
+        simpa using fun isu ↦ reg.2 (by simp [span_singleton_eq_top.mpr isu])
+      rw [supportDim_eq_of_equiv (Submodule.quotOfListConsSMulTopEquivQuotSMulTopInner M x _),
+        ← supportDim_quotSMulTop_succ_eq_supportDim ((isRegular_cons_iff M _ _).mp reg).1 mem,
+        ← hn rs' ((isRegular_cons_iff M _ _).mp reg).2 len, add_assoc]
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
  induction rs generalizing M with
  | nil =>
    rw [ofList_nil, Submodule.bot_smul]
    simpa using supportDim_eq_of_equiv (Submodule.quotEquivOfEqBot ⊥ rfl)
  | cons x rs' ih =>
    have mem : x ∈ maximalIdeal R := by
      simpa using fun isu ↦ reg.2 (by simp [span_singleton_eq_top.mpr isu])
    simp [supportDim_eq_of_equiv (Submodule.quotOfListConsSMulTopEquivQuotSMulTopInner M x _),
      ← supportDim_quotSMulTop_succ_eq_supportDim ((isRegular_cons_iff M _ _).mp reg).1 mem,
      ← ih ((isRegular_cons_iff M _ _).mp reg).2, add_assoc]
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+    (reg : IsSMulRegular R x) (hx : x ∈ maximalIdeal R) :
+    ringKrullDim (R ⧸ span {x}) + 1 = ringKrullDim R := by
+  have h := Submodule.ideal_span_singleton_smul x (⊤ : Ideal R)
+  simp only [smul_eq_mul, mul_top] at h
+  rw [ringKrullDim_eq_of_ringEquiv (quotientEquivAlgOfEq R h).toRingEquiv,
+    ringKrullDim_quotSMulTop_succ_eq_ringKrullDim reg hx]
+
+/-- If $M$ is a finite module over a Noetherian local ring $R$, $r_1, \dots, r_n$ is an
+  $M$-sequence, then $\dim M/(r_1, \dots, r_n)M + n = \dim M$. -/
+theorem supportDim_regular_sequence_add_length_eq_supportDim (rs : List R) (reg : IsRegular M rs) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
theorem supportDim_add_length_eq_supportDim_of_isRegular (rs : List R) (reg : IsRegular M rs) :
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+
+open RingTheory Sequence IsLocalRing Ideal PrimeSpectrum Pointwise
+
+/-- If $M$ is a finite module over a Noetherian local ring $R$, then $\dim M \le \dim M/xM + 1$
+  for all $x$ in the maximal ideal of the local ring $R$. -/
+theorem supportDim_le_supportDim_quotSMulTop_succ {x : R} (hx : x ∈ maximalIdeal R) :
+    supportDim R M ≤ supportDim R (QuotSMulTop x M) + 1 := by
+  rcases subsingleton_or_nontrivial M with h | _
+  · rw [(supportDim_eq_bot_iff_subsingleton R M).mpr h]
+    rw [(supportDim_eq_bot_iff_subsingleton R (QuotSMulTop x M)).mpr inferInstance, WithBot.bot_add]
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
  · simp [Module.supportDim_eq_bot_of_subsingleton]
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 12]
```diff
@@ -0,0 +1,155 @@
...
+  refine iSup_le_iff.mpr (fun q ↦ ?_)
+  classical let p : LTSeries (support R M) :=
+    if h : q.last < closedPoint R then q.snoc ⟨closedPoint R, closedPoint_mem_support R M⟩ h else q
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: Could you please add a few (short) comments describing the choice of the `LTSeries` here and below?

**Review by chrisflav — COMMENTED** [review]
Nice work!

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 12 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: @mbkybky I think you know this better.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 10 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: `ringKrullDim` version changed similarly

File: Mathlib/RingTheory/Nakayama.lean (hunk 7 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Nakayama.lean]: The import of `Mathlib/RingTheory/Nakayama` will increase by 3.52% (this is based on my attempt in commit https://github.com/leanprover-community/mathlib4/commit/2f58a3ecf8989135b6bff3918e882efc94e84978 of #25213).

File: Mathlib/RingTheory/Spectrum/Prime/LTSeries.lean (hunk 6 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Spectrum/Prime/LTSeries.lean]: The changes in this file were moved to #27760  (which has been merged now).

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 8 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: I added the stacks project tags for the corresponding theorems.

File: Mathlib/Algebra/Module/Submodule/Lattice.lean (hunk 1 above)
Comment (mbkybky) [reply Mathlib/Algebra/Module/Submodule/Lattice.lean]: I have removed it.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 12 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: Done.

**Comment by chrisflav** [comment]
Note that the build is still failing.

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 13]
```diff
@@ -0,0 +1,211 @@
...
+    (supportDim_le_supportDim_quotSMulTop_succ hx)
+
+theorem supportDim_quotSMulTop_succ_eq_supportDim {x : R} (reg : IsSMulRegular M x)
+    (hx : x ∈ maximalIdeal R) : supportDim R (QuotSMulTop x M) + 1 = supportDim R M :=
+  supportDim_quotSMulTop_succ_eq_of_notMem_minimalPrimes_of_mem_maximalIdeal
+    (fun _ ↦ reg.notMem_of_mem_minimalPrimes) hx
+
+@[stacks 00KW]
+lemma _root_.ringKrullDim_quotSMulTop_succ_eq_ringKrullDim {x : R} (reg : IsSMulRegular R x)
+    (hx : x ∈ maximalIdeal R) : ringKrullDim (R ⧸ x • (⊤ : Ideal R)) + 1 = ringKrullDim R := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: I think `ringKrullDim_quotient_span_singleton_succ_eq_ringKrullDim` should have the stacks tag instead. Do you even need this specific formulation or could you just inline it in the proof of the other lemma?

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 14]
```diff
@@ -0,0 +1,211 @@
...
+  rw [← supportDim_quotient_eq_ringKrullDim, ← supportDim_self_eq_ringKrullDim]
+  exact supportDim_quotSMulTop_succ_eq_supportDim reg hx
+
+lemma _root_.ringKrullDim_quotient_span_singleton_succ_eq_ringKrullDim {x : R}
+    (reg : IsSMulRegular R x) (hx : x ∈ maximalIdeal R) :
+    ringKrullDim (R ⧸ span {x}) + 1 = ringKrullDim R := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: Is there an easy way to obtain the non-local ring version from this lemma? (for example this is true if `x` is in the Jacobson radical or simply in a maximal ideal of maximal height)

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 15]
```diff
@@ -0,0 +1,211 @@
...
+variable {R : Type*} [CommRing R] [IsNoetherianRing R] [IsLocalRing R]
+  {M : Type*} [AddCommGroup M] [Module R M] [Module.Finite R M]
+
+open RingTheory Sequence IsLocalRing Ideal PrimeSpectrum Pointwise
+
+/-- If $M$ is a finite module over a Noetherian local ring $R$, then $\dim M \le \dim M/xM + 1$
+  for all $x$ in the maximal ideal of the local ring $R$. -/
+@[stacks 0B52 "the second inequality"]
+theorem supportDim_le_supportDim_quotSMulTop_succ {x : R} (hx : x ∈ maximalIdeal R) :
+    supportDim R M ≤ supportDim R (QuotSMulTop x M) + 1 := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: I think you could generalize this to not assume `IsLocalRing` and instead assume that `x` is contained in a maximal ideal of maximal height. You would then get `p` with the desired properties by assumption.

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 16]
```diff
@@ -0,0 +1,211 @@
...
+    _ ≤ _ := by simpa using add_le_add_right (by exact le_iSup_iff.mpr fun _ h ↦ h q') 1
+
+lemma _root_.ringKrullDim_le_ringKrullDim_quotSMulTop_succ {x : R} (hx : x ∈ maximalIdeal R) :
+    ringKrullDim R ≤ ringKrullDim (R ⧸ x • (⊤ : Ideal R)) + 1 := by
+  rw [← Module.supportDim_self_eq_ringKrullDim, ← Module.supportDim_quotient_eq_ringKrullDim]
+  exact supportDim_le_supportDim_quotSMulTop_succ hx
+
+lemma _root_.ringKrullDim_le_ringKrullDim_add_card {S : Finset R}
+    (hS : (S : Set R) ⊆ maximalIdeal R) :
+    ringKrullDim R ≤ ringKrullDim (R ⧸ Ideal.span S.toSet) + S.card := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: I have a similar result in an open PR (see https://github.com/leanprover-community/mathlib4/blame/293274acbe0d2141b2bf339fafb4f83d03548d96/Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean#L127-L128) (which I opened later without seeing this one, so yours has priority of course!). My version is slightly more general (no `IsLocalRing` and calculates the heights of maximal ideals instead. It also does not do induction, but directly proves both versions using Krull's height theorem).

Your approach has the advantage that it also gives you `supportDim_le_supportDim_quotSMulTop_succ`. I don't immediatly see how to unify the approaches: I reason via heights of ideals, which I don't immediately know how to transfer to modules. If you also don't have an idea how to unify, I would suggest to split this PR and put `ringKrullDim_le_ringKrullDim_add_card` and `ringKrullDim_le_ringKrullDim_quotSMulTop_succ` in a separate PR (they are not used in this PR as far as I can tell).

**Comment by Thmoas-Guan** [comment]
> Note that the build is still failing.

I think build and lint succeeded, but it failed when "verify that everything is avaliable in the cache", do you know why? (many of my other PRs also have the same problem)

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 16 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: It is needed in my proofs about regular local ring. I think you have priority as I just added it today. About unifying, I don't know how to unify either. I only need this spacific statement, I may base my project about regular local ring on yours.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 14 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: I think this would follow from your KrullHeightTheorem approach, I don't mind removing this and use your version. I only need the next lemma `_root_.ringKrullDim_le_ringKrullDim_add_card`

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: @mbkybky I think you know better as you did this part of proof.

**Comment by chrisflav** [comment]
> > Note that the build is still failing.
> 
> I think build and lint succeeded, but it failed when "verify that everything is avaliable in the cache", do you know why? (many of my other PRs also have the same problem)

You can try to merge `master` again. There were changes to the cache infrastructure. If this does not help, I can manually re-run the job.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 16 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: I think I can remove this one here and use yours, we can decide where to put this one later. I would like to know which PR is this in?

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 15 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: I think I need to assume `x ∈ (annihilator R M).jacobson`.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 14 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: I've added the non-local ring version (assuming `x ∈ Ring.jacobson R`).

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 17]
```diff
@@ -0,0 +1,181 @@
...
+-/
+
+namespace Module
+
+variable {R : Type*} [CommRing R] [IsNoetherianRing R] [IsLocalRing R]
+  {M : Type*} [AddCommGroup M] [Module R M] [Module.Finite R M]
+
+open RingTheory Sequence IsLocalRing Ideal PrimeSpectrum Pointwise
+
+omit [IsLocalRing R] in
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: Could you please rearrange the `variable` lines instead of using `omit` here and below?

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 18]
```diff
@@ -0,0 +1,181 @@
...
+theorem supportDim_le_supportDim_quotSMulTop_succ_of_mem_jacobson {x : R}
+    (h : x ∈ (annihilator R M).jacobson) : supportDim R M ≤ supportDim R (QuotSMulTop x M) + 1 := by
+  rcases subsingleton_or_nontrivial M with h | _
+  · simp [Module.supportDim_eq_bot_of_subsingleton]
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
  nontriviality M
```
if you add `@[nontriviality]` to `Module.supportDim_eq_bot_of_subsingleton`.

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 19]
```diff
@@ -0,0 +1,181 @@
...
+  -- Append `m` to `q`.
+  classical let p : LTSeries (support R M) :=
+    if hq : q.last.1.1 < m then q.snoc ⟨⟨m, inferInstance⟩, mem_support_mono hm q.last.2⟩ hq else q
+  obtain ⟨hxp, le⟩ : x ∈ p.last.1.1 ∧ q.length ≤ p.length := by
+    by_cases lt : q.last.1.1 < m
+    · simpa [show p = q.snoc ⟨⟨m, _⟩, _⟩ lt from dif_pos lt] using hj h
+    · have hq : q.last.1.1 = m := by
+        contrapose! lt
+        exact lt_of_le_of_ne hm lt
+      simpa [show p = q from dif_neg lt, hq] using hj h
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
  refine iSup_le_iff.mpr (fun p ↦ ?_)
  wlog hxp : x ∈ p.last.1.1 generalizing p
  · obtain ⟨p, hle, hm⟩ := exists_ltSeries_support_isMaximal_last_of_ltSeries_support p
    refine le_trans (Nat.cast_le.mpr hle) ?_
    have hj : (annihilator R M).jacobson ≤ p.last.1.1 :=
      sInf_le ⟨mem_support_iff_of_finite.mp p.last.2, inferInstance⟩
    exact this _ (hj h)
```
if you add
```
lemma exists_ltSeries_support_isMaximal_last_of_ltSeries_support (q : LTSeries (support R M)) :
    ∃ (p : LTSeries (support R M)), q.length ≤ p.length ∧ p.last.1.1.IsMaximal := by
  obtain ⟨m, hmm, hm⟩ := exists_le_maximal _ q.last.1.2.1
  obtain hlt | rfl := lt_or_eq_of_le hm
  · use q.snoc ⟨⟨m, inferInstance⟩, mem_support_mono hm q.last.2⟩ hlt
    simpa
  · use q
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 20]
```diff
@@ -0,0 +1,181 @@
...
+/-- If $M$ is a finite module over a commutative ring $R$, $x \in M$ is not in any minimal prime of
+  $M$, then $\dim M/xM + 1 \le \dim M$. -/
+theorem supportDim_quotSMulTop_succ_le_of_notMem_minimalPrimes {x : R}
+    (hn : ∀ p ∈ (annihilator R M).minimalPrimes, x ∉ p) :
+    supportDim R (QuotSMulTop x M) + 1 ≤ supportDim R M := by
+  rcases subsingleton_or_nontrivial M with h | _
+  · rw [(supportDim_eq_bot_iff_subsingleton R M).mpr h]
+    rw [(supportDim_eq_bot_iff_subsingleton R (QuotSMulTop x M)).mpr inferInstance, WithBot.bot_add]
+  rcases subsingleton_or_nontrivial (QuotSMulTop x M) with h | _
+  · simp [(supportDim_eq_bot_iff_subsingleton R (QuotSMulTop x M)).mpr h]
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
  nontriviality M
  nontriviality (QuotSMulTop x M)
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 21]
```diff
@@ -0,0 +1,181 @@
...
+  supportDim_quotSMulTop_succ_eq_of_notMem_minimalPrimes_of_mem_jacobson
+    (fun _ ↦ reg.notMem_of_mem_minimalPrimes) hx
+
+omit [IsLocalRing R] in
+lemma _root_.ringKrullDim_quotSMulTop_succ_eq_ringKrullDim_of_mem_jacobson {x : R}
+    (reg : IsSMulRegular R x) (hx : x ∈ Ring.jacobson R) :
+    ringKrullDim (QuotSMulTop x R) + 1 = ringKrullDim R := by
+  rw [← supportDim_quotient_eq_ringKrullDim, ← supportDim_self_eq_ringKrullDim]
+  exact supportDim_quotSMulTop_succ_eq_supportDim_mem_jacobson reg
+    ((annihilator R R).ringJacobson_le_jacobson hx)
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]: I think we don't need this lemma. Could you please inline it in the proof of `ringKrullDim_quotient_span_singleton_succ_eq_ringKrullDim_of_mem_jacobson`?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: But I am needing it ... So what's your plan?

**Comment by Thmoas-Guan** [comment]
@chrisflav I believe I need some lemma spacific for `ringKrullDim` (for example `ringKrullDim_le_ringKrullDim_add_card`, `ringKrullDim_quotSMulTop_succ_eq_ringKrullDim`), I am really needing it and putting it here will be easier to import. How about this, we have our version there first (I mean adding a subsequent PR to this only for temporary use), then when your (more general) version is ready, you add the same statements in your file and replace the current version?

File: Mathlib/RingTheory/Support.lean [hunk 22]
```diff
@@ -127,6 +127,9 @@ lemma Module.nonempty_support_iff :
   rw [Set.nonempty_iff_ne_empty, ne_eq,
     Module.support_eq_empty_iff, ← not_subsingleton_iff_nontrivial]
 
+instance [Nontrivial M] : Nonempty (Module.support R M) :=
+  (Module.nonempty_support_iff.mpr ‹_›).to_subtype
```
Comment (erdOne) [inline Mathlib/RingTheory/Support.lean]: A `[Nontrivial M] : (Module.support R M).Nonempty` lemma would be useful but I don't think we want this instance globally.

File: Mathlib/RingTheory/Nakayama.lean [hunk 23]
```diff
@@ -195,3 +195,25 @@ theorem le_span_of_map_mkQ_le_map_mkQ_span_of_le_jacobson_bot
...
+
+theorem subsingleton_of_subsingleton_quotSMulTop {x : R} (hx : x ∈ (annihilator R M).jacobson)
+    [h : Subsingleton (M ⧸ x • (⊤ : Submodule R M))] : Subsingleton M := by
+  rw [← Submodule.annihilator_top] at hx
+  exact (Submodule.subsingleton_iff R).mp <| subsingleton_of_top_le_bot <| le_of_eq <|
+    Submodule.eq_bot_of_eq_pointwise_smul_of_mem_jacobson_annihilator Module.Finite.fg_top
+      (Submodule.subsingleton_quotient_iff_eq_top.mp h).symm hx
+
+theorem nontrivial_quotSMulTop_of_mem_annihilator_jacobson [h : Nontrivial M] {x : R}
+    (hx : x ∈ (annihilator R M).jacobson) : Nontrivial (M ⧸ x • (⊤ : Submodule R M)) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Nakayama.lean]: Can you have one with `x • (⊤ : Submodule R M) \ne \top` as the statement too?

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 24]
```diff
@@ -0,0 +1,164 @@
...
+        ⟨mem_support_mono (by simpa [h0] using q.monotone (Fin.zero_le _)) p.head.2, q.monotone
+          ((Fin.natCast_eq_mk (Nat.lt_of_add_left_lt hi)).trans_le (Nat.le_add_left 1 i)) hxq⟩⟩
+    step := by exact fun _ ↦ q.strictMono (by simp)
+  }
+  calc (p.length : WithBot ℕ∞) ≤ (p.length - 1 + 1 : ℕ) := Nat.cast_le.mpr le_tsub_add
+    _ ≤ _ := by simpa using add_le_add_right (by exact le_iSup_iff.mpr fun _ h ↦ h q') 1
+
+omit [IsNoetherianRing R] in
+/-- If $M$ is a finite module over a commutative ring $R$, $x \in M$ is not in any minimal prime of
+  $M$, then $\dim M/xM + 1 \le \dim M$. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
/-- If `M` is a finite module over a commutative ring `R`, `x ∈ M` is not in any minimal prime of
  `M`, then `dim M/xM + 1 ≤ dim M`. -/
```
I think this looks better in VScode without looking any worse in the docs.

Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: And perhaps we shall move this to `Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean` and only keep results specifically about noetherian rings here.

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 25]
```diff
@@ -0,0 +1,164 @@
...
+  supportDim_quotSMulTop_succ_eq_of_notMem_minimalPrimes_of_mem_jacobson hn <|
+    (maximalIdeal_le_jacobson _) hx
+
+theorem supportDim_quotSMulTop_succ_eq_supportDim {x : R} (reg : IsSMulRegular M x)
+    (hx : x ∈ maximalIdeal R) : supportDim R (QuotSMulTop x M) + 1 = supportDim R M :=
+  supportDim_quotSMulTop_succ_eq_supportDim_mem_jacobson reg ((maximalIdeal_le_jacobson _) hx)
+
+@[stacks 00KW]
+lemma _root_.ringKrullDim_quotient_span_singleton_succ_eq_ringKrullDim {x : R}
+    (reg : IsSMulRegular R x) (hx : x ∈ maximalIdeal R) :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
    (reg : x ∈ R⁰) (hx : x ∈ maximalIdeal R) :
```
I think we use this for rings. And this gives you `dim R[[X]] = dim R + 1` right? Can you add this or will this be in a follow up PR? Also how far are we from `dim R[X] = dim R + 1`?

Comment (chrisflav) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: see #27542 for the polynomial ring (and #27557 for powerseries).

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 24 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: > And perhaps we shall move this to `Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean` and only keep results specifically about noetherian rings here.

The statement of this theorem requires [Module.supportDim](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/KrullDimension/Module.html#Module.supportDim) defined in `RingTheory/KrullDimension/Module.lean`. But this file imports `RingTheory/KrullDimension/NonZeroDivisors.lean`, so this theorem cannot be moved to `RingTheory/KrullDimension/NonZeroDivisors.lean`.

File: Mathlib/RingTheory/Nakayama.lean (hunk 23 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Nakayama.lean]: I think we already have it: [Submodule.top_ne_pointwise_smul_of_mem_jacobson_annihilator](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Nakayama.html#Submodule.top_ne_pointwise_smul_of_mem_jacobson_annihilator).

File: Mathlib/RingTheory/Support.lean (hunk 22 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Support.lean]: I have changed it to a lemma.

File: Mathlib/RingTheory/Nakayama.lean [hunk 26]
```diff
@@ -195,3 +195,17 @@ theorem le_span_of_map_mkQ_le_map_mkQ_span_of_le_jacobson_bot
...
+
+open Pointwise
+
+variable [Module.Finite R M]
+
+theorem nontrivial_quotSMulTop_of_mem_annihilator_jacobson [h : Nontrivial M] {x : R}
+    (hx : x ∈ (annihilator R M).jacobson) : Nontrivial (M ⧸ x • (⊤ : Submodule R M)) :=
+  not_subsingleton_iff_nontrivial.mp <|
+    Submodule.subsingleton_quotient_iff_eq_top.not.mpr <|
+      Submodule.top_ne_pointwise_smul_of_mem_jacobson_annihilator hx |>.symm
```
Comment (erdOne) [inline Mathlib/RingTheory/Nakayama.lean]: Can you fix `Submodule.Quotient.nontrivial_of_lt_top` to take ne_top instead and use that?
And perhaps we don't even need this lemma in that case?

File: Mathlib/RingTheory/Support.lean [hunk 27]
```diff
@@ -127,6 +127,9 @@ lemma Module.nonempty_support_iff :
   rw [Set.nonempty_iff_ne_empty, ne_eq,
     Module.support_eq_empty_iff, ← not_subsingleton_iff_nontrivial]
 
+lemma Module.nonempty_support_of_nontrivial [Nontrivial M] : Nonempty (Module.support R M) :=
+  (Module.nonempty_support_iff.mpr ‹_›).to_subtype
```
Comment (erdOne) [inline Mathlib/RingTheory/Support.lean]: The statement should be in terms of `Set.Nonempty`.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Jacobson/Ideal.lean [hunk 28]
```diff
@@ -226,6 +226,9 @@ theorem jacobson_mono {I J : Ideal R} : I ≤ J → I.jacobson ≤ J.jacobson :=
   rw [jacobson, mem_sInf] at hx ⊢
   exact fun K ⟨hK, hK_max⟩ => hx ⟨Trans.trans h hK, hK_max⟩
 
+theorem ringJacobson_le_jacobson {I : Ideal R} : Ring.jacobson R ≤ I.jacobson :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Jacobson/Ideal.lean:229]: Maybe `I` explicit makes more sense, but as you prefer.

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 29]
```diff
@@ -0,0 +1,169 @@
...
+import Mathlib.RingTheory.Regular.RegularSequence
+import Mathlib.RingTheory.Spectrum.Prime.LTSeries
+
+/-!
+
+# Krull Dimension of quotient regular sequence
+
+## Main results
+
+- `Module.supportDim_add_length_eq_supportDim_of_isRegular`: If $M$ is a finite module over a
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
- `Module.supportDim_add_length_eq_supportDim_of_isRegular`: If `M` is a finite module over a
```
Similarly elsewhere.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Jacobson/Ideal.lean (hunk 28 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Jacobson/Ideal.lean:229]: I think making the ideal implicit here is reasonable. It's in the `Ideal` namespace, and we can always specify it explicitly with `I.ringJacobson_le_jacobson` if needed. This is also consistent with the rest of the file, where most `Ideal` variables are implicit.

File: Mathlib/RingTheory/KrullDimension/Regular.lean (hunk 25 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: @erdOne  I believe the current version have its use in dealing with regular sequence, what do you think of leaving this version here and add another version for `R^0`?

Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Regular.lean]: Sure
